US06329381B1
6-Amino-9-benzyl-8-hydroxy-2-(2-methoxyethoxy)purine
6-Amino-9-benzyl-8-methoxy-2-(2-methoxyethoxy)purine (21 mg, 0.064 mmol) in concentrated hydrochloric acid (20 ml) was stirred at room temperature for 5 hours. The reaction mixture was evaporated in vacuo to dryness and 28% aqueous ammonia was added to the residue. The resulting crystals were filtered and washed with water to give the subject compound (17 mg, yield 84%).

reactant | 6-Amino-9-benzyl-8-methoxy-2-(2-methoxyethoxy)purine | 0.064 mmol, 21 mg | NC1=C2N=C(N(C2=NC(=N1)OCCOC)CC1=CC=CC=C1)OC | C16H19N5O3
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | 6-Amino-9-benzyl-8-hydroxy-2-(2-methoxyethoxy)purine | 17 mg, yield 84% | NC1=C2N=C(N(C2=NC(=N1)OCCOC)CC1=CC=CC=C1)O | C15H17N5O3
